US04526608
A mixture of N-methyl-N[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]hydroxyamine (700 mg., 1.93 mm) K2CO3 (320 mg.), 1-bromo-3,3-dimethylbutan-2-one (520 mg.) and acetone (10 ml.) is refluxed for about 16 hours. Then, the mixture is filtered and filtrate concentrated. The concentrate is purified by prep. TLC using 20% ethyl acetate/hexane to give N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]t-butylcarbonylmethoxyamine (IVA; R3 is H, n is one, and R4 is t-butyl).

reactant | N-methyl-N[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]hydroxyamine | 700 mg | CN(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])O | C14H10ClF3N2O4
reactant | K2CO3 | 320 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3,3-dimethylbutan-2-one | 520 mg | BrCC(C(C)(C)C)=O | C6H11BrO
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-methyl-N-[2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenyl]t-butylcarbonylmethoxyamine | CN(C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-])OCC(=O)C(C)(C)C | C20H20ClF3N2O5
